US09260469B2
Preparation of (2R,3S,5R)-5-(2-Oxo-6-(4-pentylphenyl)furo[2,3-d]pyrimidin-3(2H)-yl)-2-(tert-butyldimethylsilyloxymethyl)-tetrahydrofuran-3-yl 2-chloroacetate
To a 25 mL flask was added 102 mg (0.2 mmol) of 3-(5-((tert-butyldimethyl silyloxy)methyl)-4-hydroxy-tetrahydrofuran-2-yl)-6-(4-pentylphenyl)furo[2,3-d]pyrimidin-2(3H)-one, 48 mg (0.4 mmol) of DMAP, and 5 mL of DCM. 30 μl (0.4 mmol) of chloroacetyl chloride was added dropwise. The mixture was stirred at rt for 1 h.

reactant | 3-(5-((tert-butyldimethyl silyloxy)methyl)-4-hydroxy-tetrahydrofuran-2-yl)-6-(4-pentylphenyl)furo[2,3-d]pyrimidin-2(3H)-one | 0.2 mmol, 102 mg | C(C)(C)(C)[Si](OCC1C(CC(O1)N1C(N=C2C(=C1)C=C(O2)C2=CC=C(C=C2)CCCCC)=O)O)(C)C | C28H40N2O5Si
reactant | chloroacetyl chloride | 0.4 mmol, 30 μl | ClCC(=O)Cl | C2H2Cl2O
catalyst | DMAP | 0.4 mmol, 48 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (2R,3S,5R)-5-(2-Oxo-6-(4-pentylphenyl)furo[2,3-d]pyrimidin-3(2H)-yl)-2-(tert-butyldimethylsilyloxymethyl)-tetrahydrofuran-3-yl 2-chloroacetate | ClCC(=O)O[C@@H]1[C@H](O[C@H](C1)N1C(N=C2C(=C1)C=C(O2)C2=CC=C(C=C2)CCCCC)=O)CO[Si](C)(C)C(C)(C)C | C30H41ClN2O6Si
